US06835752B2
N-methyl-2-nitrobenzylaminoacetic acid
To a solution of N-methylglycine methyl ester hydrochloride (2.00 g) in methanol (20 ml), potassium hydroxide (300 mg) was added, and then the mixture was stirred for 10 minutes at room temperature. To the suspension, o-nitrobenzaldehyde (1.74 g) was added, and then the mixture was stirred overnight at room temperature. A solution of sodium cyanoborohydride (722 mg) in methanol was added to the reaction mixture, and the mixture was stirred for 4 hours at room temperature. A saturated aqueous solution of sodium bicarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel to give the title compound (660 mg) having the following physical data.

reactant | N-methylglycine methyl ester hydrochloride | 2.00 g | Cl.COC(CNC)=O
reactant | potassium hydroxide | 300 mg | [OH-].[K+]
reactant | o-nitrobenzaldehyde | 1.74 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | sodium cyanoborohydride | 722 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | N-methyl-2-nitrobenzylaminoacetic acid | 660 mg | CN(CC1=CC=CC=C1)C(C(=O)O)[N+](=O)[O-] | C10H12N2O4
